US07335658B2
6-[4-(5-CHLORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 5-chloro-2-(trifluoromethyl)benzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclobutylethyl)amide, the title compound was obtained as a white powder (71% yield). 1H NMR (300 MHz, CDCl3) δ 8.07, 7.81, 7.66, 7.51, 7.34, 3.86-3.66, 3.40-3.34, 2.33, 2.03, 1.86-1.57. 13C NMR (75 MHz, CDCl3) δ 166.0, 162.8, 159.8, 145.5, 138.9, 135.9, 129.8, 128.5, 127.5, 127.3, 125.6, 125.2, 112.7, 46.4, 44.6, 44.5, 41.3, 37.6, 36.5, 33.7, 28.3, 18.6. MS (ES+) m/z 496.5 (M+1).

reactant | 5-chloro-2-(trifluoromethyl)benzoyl chloride | ClC=1C=CC(=C(C(=O)Cl)C1)C(F)(F)F | C8H3Cl2F3O
reactant | 6-piperazin-1-ylpyridazine-3-carboxylic acid (2-cyclobutylethyl)amide | C1(CCC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C15H23N5O
product | 6-[4-(5-CHLORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOBUTYLETHYL)AMIDE | C1(CCC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)Cl)C(F)(F)F)=O | C23H25ClF3N5O2
